US07112638B2
Synthesis of 3-chloro-2-phenyl-2-butenal
0.375 mol (35 mL) of POCl3 was added at 0° C. to a 0.45 mol (35 mL) of DMF. At the end of the addition, the mixture was allowed to warm to room temperature and stirred for 1 h. Then it was cooled again to 0° C. and carefully treated with 0.15 mol (20.1 g) of phenylacetone. The resulting reaction mixture was stirred at the same temperature for 1 h. Then it was poured into a mixture of ice and water, added of sodium acetate and extracted with CHC3 (3×50 mL). The organic phase was separated, washed with water until neutral pH, dried over MgSO4 and carefully evaporated off to dryness. The residue was distilled in vacuo, b.p. 90–110° C./0.21 torr.

reactant | POCl3 | 0.375 mol | O=P(Cl)(Cl)Cl | Cl3OP
reactant | DMF | 0.45 mol | CN(C)C=O | C3H7NO
reactant | phenylacetone | 0.15 mol, 20.1 g | C1(=CC=CC=C1)CC(C)=O | C9H10O
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | water | O | H2O
product | 3-chloro-2-phenyl-2-butenal | ClC(=C(C=O)C1=CC=CC=C1)C | C10H9ClO
